US06894145B2
9,9-Dioctyl-2,7-dibromofluorene
In a 3-neck round-bottom flask (1,000 ml) equipped with a reflux condenser and an electronic thermometer, 2,7-dibromofluorene (64.8 g, 200 mmol, 1 eq.), 1-bromooctane (154.5 g, 800 mmol, 4 eq.), and tetrabutylammonium bromide (6.44 g, 20 mmol, 1/10 eq.) were dissolved in DMSO (dimethyl sulfoxide, 500 ml) under the protection of nitrogen. An aqueous solution of sodium hydroxide (32.0 g, 0.8 mol, 4 eq.) in water (40 ml) was dropped into the resulting light yellow solution with the speed of dropping controlled not to pass 60° C. The resulting brownish red reaction mixture was heated and stirred at 60° C. overnight. After it was allowed to cool down to room temperature, water (500 ml) was poured and the resulting mixture was stirred briefly and totally transferred into a separatory funnel (2,000 ml). The aqueous layer was separated and extracted with hexane (3×200 ml). The hexane extracts were combined, washed with 1 M hydrochloric acid (2×50 ml) and then with water (4×100 ml), and dried over MgSO4 (magnesium sulfate) overnight. The drying agent was filtered away and the filtrate was removed on a rotary evaporator. The reddish yellow residue was slowly poured into well-stirred methanol (1,000 ml) in an Erlenmeyer flask (2,000 ml). The resulting yellow precipitates were filtered out, crashed, washed with methanol (3×100 ml), and dried under suction and then in a vacuum oven at 40° C. and 3 in./Hg overnight. A white crystal (98.0 g) was collected with the yield of 89.3% with a melting point 63-65° C.

reactant | 2,7-dibromofluorene | 200 mmol, 64.8 g, 1 eq. | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | 1-bromooctane | 800 mmol, 154.5 g, 4 eq. | BrCCCCCCCC | C8H17Br
reactant | sodium hydroxide | 0.8 mol, 32.0 g, 4 eq. | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 20 mmol, 6.44 g, 10 eq. | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMSO | 500 ml | CS(=O)C | C2H6OS
solvent | water | 40 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 9,9-Dioctyl-2,7-dibromofluorene | yield of 89.3% | C(CCCCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)CCCCCCCC | C29H40Br2
